US09422281B2
A mixture of isopropyl (S)-4-acetyl-7-bromo-3-methyl-6-nitro-3,4-dihydroquinoxaline-1(2H)-carboxylate (0.870 g, 2.17 mmol), 4,4,5,5-tetramethyl-2-(4-(methylsulfonyl)phenyl)-1,3,2-dioxaborolane (0.920 g, 3.26 mmol), cesium carbonate (2.1 g, 6.52 mmol), XPhos (0.104 g, 0.22 mmol) and tris(dibenzylideneacetone)dipalladium (0.100 g, 0.11 mmol) in 1,4-dioxane (12 mL) and water (3 mL) was heated for 16 h at 90° C. The reaction was cooled to rt and concentrated. The residue was diluted with ethyl acetate and washed with saturated aqueous sodium bicarbonate solution. The organic phase was concentrated and the residue was purified by column chromatography on silica gel (eluting with 50% ethyl acetate-hexane) to afford isopropyl (S)-4-acetyl-3-methyl-7-(4-(methylsulfonyl)phenyl)-6-nitro-3,4-dihydroquinoxaline-1(2H)-carboxylate (0.860 g, 83%). MS (ESI, pos. ion) m/z 498 [M+Na]+.

reactant | isopropyl (S)-4-acetyl-7-bromo-3-methyl-6-nitro-3,4-dihydroquinoxaline-1(2H)-carboxylate | 2.17 mmol, 0.870 g | C(C)(=O)N1[C@H](CN(C2=CC(=C(C=C12)[N+](=O)[O-])Br)C(=O)OC(C)C)C | C15H18BrN3O5
reactant | 4,4,5,5-tetramethyl-2-(4-(methylsulfonyl)phenyl)-1,3,2-dioxaborolane | 3.26 mmol, 0.920 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)S(=O)(=O)C)C | C13H19BO4S
reactant | cesium carbonate | 6.52 mmol, 2.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | XPhos | 0.22 mmol, 0.104 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | 1,4-dioxane | 12 mL | O1CCOCC1 | C4H8O2
solvent | water | 3 mL | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium | 0.11 mmol, 0.100 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | isopropyl (S)-4-acetyl-3-methyl-7-(4-(methylsulfonyl)phenyl)-6-nitro-3,4-dihydroquinoxaline-1(2H)-carboxylate | 0.860 g, 83% | C(C)(=O)N1[C@H](CN(C2=CC(=C(C=C12)[N+](=O)[O-])C1=CC=C(C=C1)S(=O)(=O)C)C(=O)OC(C)C)C | C22H25N3O7S
